US05750531
Synthesis of 5,6-dimethyl-2-(phenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After aniline(0.53 ml, 5.5 mmol) was added to a mixture solution of 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.72 g, 2.5 mmol) and dimethylformamide(5 ml), 0.21 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | aniline | 5.5 mmol, 0.53 ml | NC1=CC=CC=C1 | C6H7N
reactant | 5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.5 mmol, 0.72 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(phenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.21 g, Yield: 22% | Cl.CC=1C(=NC(=NC1C)NC1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H24N4.ClH/c1-15-16(2)23-22(24-19-10-5-4-6-11-19)25-21(15)26-14-13-18-9-7-8-12-20(18)17(26)3;/h4-12,17H,13-14H2,1-3H3,(H,23,24,25);1H
